US04209613
0.64 g. (5 mmol) of 2-thiouracil, 2.52 g. (5 mmol) of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose were combined in 75 ml. of absolute acetonitrile with 0.65 g. (4 mmol) of HMDS, 0,43 g. (4 mmol) of TCS, and 1.56 g. (6 mmol) of SnCl4 and after 7 hours at 24° C. the mixture was worked up as set forth in Example 1, thus obtaining 64% of crystalline 2-thiouridine tribenzoate.

reactant | 2-thiouracil | 5 mmol | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 5 mmol | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | HMDS | 4 mmol | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | SnCl4 | 6 mmol | Cl[Sn](Cl)(Cl)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-thiouridine tribenzoate | 64% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=S)NC(=O)C=C1 | C30H24N2O8S
